### PR TITLE
feat(AlgebraicGeometry): define the non-vanishing locus of a set in Proj

### PR DESCRIPTION
**Pull request by kckennylau**
Given a subset `s : Set A`, the non-vanishing locus of `s` is the set of points whose corresponding prime ideal does not fully contain `s`. In other words, where not all elements of `s` vanish.

I could not find a name for this in the literature.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/ProjectiveSpectrum/Basic.lean [hunk 1]
```diff
@@ -524,4 +524,70 @@ lemma fromOfGlobalSections_toSpecZero
...
+
+lemma mem_nonvanishingLocus_iff_not_subset {s : Set A} {x : Proj 𝒜} :
+    x ∈ nonvanishingLocus 𝒜 s ↔ ¬s ⊆ x.asHomogeneousIdeal :=
+  Iff.rfl
+
+lemma mem_nonvanishingLocus_iff {s : Set A} {x : Proj 𝒜} :
+    x ∈ nonvanishingLocus 𝒜 s ↔ ∃ r ∈ s, r ∉ x.asHomogeneousIdeal := by
+  simp_rw [mem_nonvanishingLocus_iff_not_subset, Set.not_subset, SetLike.mem_coe]
+
+-- #30334
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/ProjectiveSpectrum/Basic.lean:545]: Do you intend to merge this comment? If so, please expand it, so that you are not the only one that understands its meaning.

File: Mathlib/AlgebraicGeometry/ProjectiveSpectrum/Basic.lean [hunk 2]
```diff
@@ -524,4 +524,70 @@ lemma fromOfGlobalSections_toSpecZero
...
+@[simp] lemma coe_toIdeal (I : HomogeneousIdeal 𝒜) : (I.toIdeal : Set A) = I := rfl
+
+lemma nonvanishingLocus_span (s : Set A) :
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/ProjectiveSpectrum/Basic.lean:548]: Should this be a simp lemma?
```suggestion
@[simp]
lemma nonvanishingLocus_span (s : Set A) :
```

File: Mathlib/AlgebraicGeometry/ProjectiveSpectrum/Basic.lean [hunk 3]
```diff
@@ -524,4 +524,70 @@ lemma fromOfGlobalSections_toSpecZero
...
+    nonvanishingLocus 𝒜 (Ideal.span s) = nonvanishingLocus 𝒜 s := by
+  ext; simp [← coe_toIdeal, mem_nonvanishingLocus_iff_not_subset, Ideal.span_le]
+
+lemma nonvanishingLocus_homogeneousHull (I : Ideal A) :
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/ProjectiveSpectrum/Basic.lean:552]: Idem dito
```suggestion
@[simp]
lemma nonvanishingLocus_homogeneousHull (I : Ideal A) :
```
